US09447035B2
Step 1: Preparation of (S)-2-[4-[[3,5-difluoro-4-[(S)-1-propoxycarbonyl-2-[4-[1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5- yl]phenyl]ethylcarbamoyl]benzylamino]methyl]-2,6-difluorobenzoylamino]-3-[4-[1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl]phenyl]propionic acid propyl ester:
To a 100 mL flask containing (S)-2-(4-cyano-2,6-difluorobenzoylamino)-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl)phenyl]propionic acid propyl ester (524 mg, 1.0 mmol) dissolved in n-propanol (20 mL) purged with nitrogen was added palladium on carbon (10%, 106 mg). The reaction was sealed, degassed with three exposures to nitrogen and house vacuum, and then exposed to a balloon of hydrogen overnight. The reaction was diluted with EA, degassed again, and exposed to hydrogen overnight. The reaction was filtered through celite, concentrated and purified by HPLC yielding the title compound (204 mg, 19%). ES(+)-LRMS m/e calcd. for C54H57F4N7O10 (M+H)+ 1041, obsd 1041.

reactant | (S)-2-(4-cyano-2,6-difluorobenzoylamino)-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl)phenyl]propionic acid propyl ester | 1.0 mmol, 524 mg | C(CC)OC([C@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)NC(C1=C(C=C(C=C1F)C#N)F)=O)=O | C27H26F2N4O5
solvent | n-propanol | 20 mL | C(CC)O | C3H8O
product | (S)-2-[4-[[3,5-difluoro-4-[(S)-1-propoxycarbonyl-2-[4-[1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5- yl]phenyl]ethylcarbamoyl]benzylamino]methyl]-2,6-difluorobenzoylamino]-3-[4-[1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl]phenyl]propionic acid propyl ester | 204 mg, 19% | C(CC)OC([C@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)NC(C1=C(C=C(C=C1F)CNCC1=CC(=C(C(=C1)F)C(N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)C(=O)OCCC)=O)F)F)=O)=O | C54H57F4N7O10
